US09403807B2
Step B: 2-(4-fluoro-2,6-dinitrophenyl)-N,N-dimethylethenamine
To a solution of 5-fluoro-2-methyl-1,3-dinitrobenzene (15 g, 0.075 mol) in N,N-dimethylformamide (300 mL) was added dimethylformamide dimethylacetal (89 g, 0.75 mol). The bright red reaction mixture was heated at 120° C. for 5 h, then concentrated in vacuo to provide 18 g crude product, which was used in the next step without further purification. LC/MS m/z=256.2 [M+H]+.

reactant | 5-fluoro-2-methyl-1,3-dinitrobenzene | 0.075 mol, 15 g | FC=1C=C(C(=C(C1)[N+](=O)[O-])C)[N+](=O)[O-] | C7H5FN2O4
reactant | dimethylformamide dimethylacetal | 0.75 mol, 89 g | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 2-(4-fluoro-2,6-dinitrophenyl)-N,N-dimethylethenamine | 18 g | FC1=CC(=C(C(=C1)[N+](=O)[O-])C=CN(C)C)[N+](=O)[O-] | C10H10FN3O4
